US04328223
10.3 g (0.05 mol) of 2-chloro-3a,4,5,6-tetrahydroperimidine and 8.6 g (0.055 mol) of N-methyl-N'-aminopropylpiperazine in 50 ml of acetone are heated to 55° C. for 2 hours. After cooling, 50 ml of ether are added and the reaction mixture is placed in a refrigerator for 24 hours. The crystals which have precipitated are filtered off and rinsed with ether. 10.6 g (55.6% of theory) of 2-(4-methylpiperazinopropylamino)-3a,4,5,6-tetrahydro-perimidine hydrochloride hydrate are thereby obtained. Melting point 155°-157° C.

reactant | 2-chloro-3a,4,5,6-tetrahydroperimidine | 0.05 mol, 10.3 g | ClC=1NC=2C=CC=C3CCCC(N1)C23 | C11H11ClN2
reactant | N-methyl-N'-aminopropylpiperazine | 0.055 mol, 8.6 g | CN1CCN(CC1)CCCN | C8H19N3
reactant | ether | 50 ml | CCOCC | C4H10O
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 2-(4-methylpiperazinopropylamino)-3a,4,5,6-tetrahydro-perimidine hydrochloride hydrate | 10.6 g, 55.6% | O.Cl.CN1CCN(CC1)CCCNC=1NC=2C=CC=C3CCCC(N1)C23 | InChI=1S/C19H29N5.ClH.H2O/c1-23-11-13-24(14-12-23)10-4-9-20-19-21-16-7-2-5-15-6-3-8-17(22-19)18(15)16;;/h2,5,7,17H,3-4,6,8-14H2,1H3,(H2,20,21,22);1H;1H2
